US05610303
(1) N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[3(1-acetylpiperidin-4-yl)propanoyl]aniline
To 80 ml of chloroform were added 4.53 g of 4-[3-(1-acetylpiperidin-4-yl)propanoyl]aniline and 3.83 g of 4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine, and after adding 10 ml of a chloroform solution of hydrochloric acid (containing 0.9 g of hydrochloric acid), the mixture was refluxed under heating for 5 hours. After completion of the reaction, a 28% sodium methoxide was added to the mixture under ice cooling to make it alkaline and then the solvent was removed by distillation under reduced pressure. The obtained residue was applied to silica gel column chromatography to obtain 6.16 g of the title compound as brown powder.

reactant | 4-[3-(1-acetylpiperidin-4-yl)propanoyl]aniline | 4.53 g | C(C)(=O)N1CCC(CC1)CCC(=O)C1=CC=C(N)C=C1 | C16H22N2O2
reactant | 4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 3.83 g | ClC=1C2=C(N=CN1)CCC2 | C7H7ClN2
reactant | hydrochloric acid | 0.9 g | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[3(1-acetylpiperidin-4-yl)propanoyl]aniline | 6.16 g | N1=CN=C(C2=C1CCC2)NC2=CC=C(C=C2)C(CCC2CCN(CC2)C(C)=O)=O | C23H28N4O2
